US08389524B2
(c) Methyl 2-[4-((2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-3-[(phenylmethyl)oxy]propanoate
A mixture of 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)4-piperidinylcarbamate (1.087 g, 3.11 mmol) (for a synthesis see WO2004/058144 Example 99(h)), methyl 2-bromo-3-[(phenylmethyl)oxy]propanoate (1.0 g, 3.66 mmol) and potassium carbonate (0.860 g, 6.22 mmol) in DMF (50 ml) was heated to 80° C. and stirred under argon for 2.5 h. The solvents were removed under reduced pressure and the residue treated with saturated aqueous sodium bicarbonate. The aqueous was extracted with DCM (5×100 ml) dried MgSO4, filtered and concentrated under reduced pressure. The crude product was chromatographed, eluting with 0-100% EtOAc/40-60 petroleum ether. Appropriate fractions were combined and evaporated under reduced pressure. The residue was then dissolved in DCM (50 ml) and washed with water (20 ml). The organic layer was separated, dried MgSO4 and evaporated under reduced pressure to afford product (618 mg, 35% yield).

reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)4-piperidinylcarbamate | 3.11 mmol, 1.087 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | methyl 2-bromo-3-[(phenylmethyl)oxy]propanoate | 3.66 mmol, 1.0 g | BrC(C(=O)OC)COCC1=CC=CC=C1 | C11H13BrO3
reactant | potassium carbonate | 6.22 mmol, 0.860 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl 2-[4-((2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-3-[(phenylmethyl)oxy]propanoate | 618 mg, 35% yield | O1CCOC=2C=NC(=CC21)CN(C2CCN(CC2)C(C(=O)OC)COCC2=CC=CC=C2)C(=O)OC(C)(C)C | C29H39N3O7
